### PR TITLE
feat: tree map data structures and operations

### PR DESCRIPTION
**Pull request by datokrat**
This PR introduces ordered map data structures, namely `DTreeMap`, `TreeMap`, `TreeSet` and their `.Raw` variants, into the standard library. There are still some operations missing that the hash map has. As of now, the operations are unverified, but the corresponding lemmas will follow in subsequent PRs. While the tree map has already been optimized, more micro-optimization will follow as soon as the new code generator is ready.

### CODE REVIEW

**Comment by datokrat** [comment]
!bench

**Comment by datokrat** [comment]
!bench

**Comment by datokrat** [comment]
!bench

**Comment by datokrat** [comment]
!bench

File: src/Std/Data/DTreeMap/Internal/Impl/Query.lean [hunk 1]
```diff
@@ -0,0 +1,319 @@
...
+    match compare k k' with
+    | .lt => contains k l
+    | .gt => contains k r
+    | .eq => true
+
+instance [Ord α] : Membership α (Impl α β) where
+  mem t a := t.contains a
+
+instance [Ord α] {m : Impl α β} {a : α} : Decidable (a ∈ m) :=
+  show Decidable (m.contains a) from inferInstance
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Impl/Query.lean:50]: Is this actually required?

File: src/Std/Data/DTreeMap/Internal/Impl/Query.lean [hunk 2]
```diff
@@ -0,0 +1,319 @@
...
+  | .leaf => fallback
+  | .inner _ k' v' l r =>
+    match compare k k' with
+    | .lt => getD k l fallback
+    | .gt => getD k r fallback
+    | .eq => v'
+
+end Const
+
+/-- The smallest element of `t` that is not less than `k`. Also known as `lookupGE` or `ceil`. -/
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Impl/Query.lean:147]: At present this docstring doesn't really make sense, but didn't we want to rename this to `getGE` anyway? Also, it looks like these functions are missing from the user-facing files; is that intentional?

File: src/Std/Data/DTreeMap/Internal/Impl/Query.lean [hunk 3]
```diff
@@ -0,0 +1,319 @@
...
+  | .leaf => none
+  | .inner _ k v .leaf _ => some ⟨k, v⟩
+  | .inner _ _ _ l@(.inner _ _ _ _ _) _ => l.min?
+
+/-- The largest element of `t`. -/
+def max? [Ord α] : Impl α β → Option ((a : α) × β a)
+  | .leaf => none
+  | .inner _ k v _ .leaf => some ⟨k, v⟩
+  | .inner _ _ _ _ r@(.inner _ _ _ _ _) => r.max?
+
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Impl/Query.lean:204]: Is it not possible to write `atIndex` which takes a proof?

File: src/Std/Data/DTreeMap/Internal/Model.lean [hunk 4]
```diff
@@ -0,0 +1,465 @@
...
+    (t.containsThenInsert a b htb).2.impl = t.insertₘ a b htb := by
+  rw [containsThenInsert, insert_eq_insertₘ]
+
+theorem containsThenInsert!_eq_insertₘ [Ord α] (t : Impl α β) (htb : t.Balanced) (a : α) (b : β a) :
+    (t.containsThenInsert! a b).2 = t.insertₘ a b htb := by
+  rw [snd_containsThenInsert!_eq_containsThenInsert, containsThenInsert_eq_insertₘ]
+
+theorem insertIfNew_eq_insertIfNew! [Ord α] {k : α} {v : β k} {l : Impl α β} {h} :
+    (insertIfNew k v l h).impl = insertIfNew! k v l := by
+  simp [insertIfNew, insertIfNew!]
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Model.lean:411]: There are some non-terminal `simps` in this file.

File: src/Std/Data/DTreeMap/Internal/WF.lean [hunk 5]
```diff
@@ -0,0 +1,1069 @@
...
+    rw [contains'] at h
+    split at h <;> rename_i hcmp
+    · obtain ⟨p, hp₁, hp₂⟩ := ih₁ h
+      exact ⟨p, by simp [hp₁], hp₂⟩
+    · obtain ⟨p, hp₁, hp₂⟩ := ih₂ h
+      exact ⟨p, by simp [hp₁], hp₂⟩
+    · exact ⟨⟨k', v'⟩, by simp, OrientedCmp.eq_symm hcmp⟩
+  · simp [contains'] at h
+
+theorem Cell.containsKey_inner_toList [Ord α] [OrientedOrd α] {k : α} {c : Cell α β (compare k)} :
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/WF.lean:505]: I think this should move to `Cell.lean`.

File: src/Std/Data/OrderAxioms/TransOrd.lean [hunk 6]
```diff
@@ -0,0 +1,166 @@
...
+set_option linter.missingDocs true
+
+universe u
+
+namespace Std
+
+/--
+Class for functions `α → α → Ordering` which are oriented: flipping the arguments amounts
+to applying `Ordering.swap` to the return value.
+ -/
```
Comment (TwoFX) [inline src/Std/Data/OrderAxioms/TransOrd.lean:19]:
```suggestion
-/
```

File: src/Std/Data/OrderAxioms/TransOrd.lean [hunk 7]
```diff
@@ -0,0 +1,166 @@
...
+class OrientedCmp {α : Type u} (cmp : α → α → Ordering) : Prop where
```
Comment (TwoFX) [inline src/Std/Data/OrderAxioms/TransOrd.lean:20]: Any particular reason why `ReflOrd` gets its own file but `OrientedOrd` does not?

File: src/Std/Data/OrderAxioms/TransOrd.lean
Comment (TwoFX) [inline src/Std/Data/OrderAxioms/TransOrd.lean:1]: I think I would just name the folder `Std/Data/Ord`, which nicely mirrors `Init/Data/Ord`. Another option might be `Std/Classes` like in batteries.

Comment (TwoFX) [reply src/Std/Data/OrderAxioms/TransOrd.lean:1]: Whatever you end up with, there should then be a file like `Std/Data/Ord.lean` which pulls in all of these.

**Review by TwoFX — COMMENTED** [review]
Might want to tone down the "Detailed performance optimizations will follow as soon as the new code generator is ready." in the description a bit; that makes it sound like the current implementation is completely unoptimized, which is not the case.

File: src/Std/Data/DTreeMap/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,306 @@
...
+nested inductive types.
+-/
+
+set_option autoImplicit false
+set_option linter.missingDocs true
+
+universe u v
+
+variable {α : Type u} {β : α → Type v} {cmp : α → α → Ordering}
+private local instance : Coe (Type v) (α → Type v) where coe γ := fun _ => γ
```
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DTreeMap/Basic.lean:27]: I'm really proud of this dirty little trick :D

File: src/Std/Data/DTreeMap/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,306 @@
...
+
+@[inline, inherit_doc Raw.contains]
+def contains (t : DTreeMap α β cmp) (a : α) : Bool :=
+  letI : Ord α := ⟨cmp⟩; t.inner.contains a
+
+instance : Membership α (DTreeMap α β cmp) where
+  mem m a := m.contains a
+
+instance {m : DTreeMap α β cmp} {a : α} : Decidable (a ∈ m) :=
+  show Decidable (m.contains a) from inferInstance
```
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DTreeMap/Basic.lean:118]: That's right, I already used `inferInstanceAs` in at least one of the six files but seem to have forgotten to apply it to the others, too :)

File: src/Std/Data/DTreeMap/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,306 @@
...
+  for ⟨a, b⟩ in t do
+    if p a b = false then return false
+  return true
+
+@[inline, inherit_doc Raw.keys]
+def keys (t : DTreeMap α β cmp) : List α :=
+  t.inner.keys
+
+@[inline, inherit_doc Raw.keysArray]
+def keysArray (t : Raw α β cmp) : Array α :=
```
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DTreeMap/Basic.lean:221]: Oh, certainly.

File: src/Std/Data/DTreeMap/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,306 @@
...
+def ofArray (l : Array ((a : α) × β a)) (cmp : α → α → Ordering) : DTreeMap α β cmp :=
+  letI : Ord α := ⟨cmp⟩
+  ⟨Impl.ofArray l |>.impl, Impl.WF.ofArray⟩
+
+@[inline, inherit_doc Raw.ofArray, deprecated ofArray (since := "2025-02-06")]
+def fromArray (l : Array ((a : α) × β a)) (cmp : α → α → Ordering) : DTreeMap α β cmp :=
+  ofArray l cmp
+
+@[inline, inherit_doc Raw.mergeBy]
+def mergeBy [LawfulEqCmp cmp] (mergeFn : (a : α) → β a → β a → β a) (t₁ t₂ : DTreeMap α β cmp) : DTreeMap α β cmp :=
```
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DTreeMap/Basic.lean:251]: I think I'll make it consistent with batteries, since we break the `RBMap` interface either way by saying `foldl` instead of `fold`.

File: src/Std/Data/DTreeMap/Internal/Impl/Operations.lean [hunk 12]
```diff
@@ -0,0 +1,719 @@
...
+
+attribute [Std.Internal.tree_tac] or_true true_or
+
+/-- Adds a new mapping to the key, overwriting an existing one with equal key if present. -/
+def insert [Ord α] (k : α) (v : β k) (t : Impl α β) (hl : t.Balanced) :
+    TreeB α β t.size (t.size + 1) :=
+  match t with
+  | leaf => ⟨.inner 1 k v .leaf .leaf, ✓, ✓, ✓⟩
+  | inner sz k' v' l' r' =>
+      match compare k k' with
```
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DTreeMap/Internal/Impl/Operations.lean:324]: I missed that one!

File: src/Std/Data/DTreeMap/Internal/Impl/Operations.lean [hunk 13]
```diff
@@ -0,0 +1,719 @@
...
+  l.foldl (init := ⟨empty, balanced_empty⟩) (fun r p =>
+    let treeB := r.impl.insert p.1 p.2 r.balanced_impl
+    ⟨treeB.impl, treeB.balanced_impl⟩)
+
+/-- Transforms an array of mappings into a tree map. -/
+@[inline]
+def ofList [Ord α] (l : List ((a : α) × β a)) : BImpl α β :=
+  l.foldl (init := ⟨empty, balanced_empty⟩) (fun r p =>
+    let treeB := r.impl.insert p.1 p.2 r.balanced_impl
+    ⟨treeB.impl, treeB.balanced_impl⟩)
```
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DTreeMap/Internal/Impl/Operations.lean:701]: I created them because I needed them when I added the operations needed to replace the `RBMap`. But I see -- it would have been smart to introduct `insertMany` here and in `Impl` and then to reuse the well-formedness stuff from `insertMany`. If you're fine with this, I'd like to defer changing this until I add more operations later instead of adding `insertMany` already now.

File: src/Std/Data/DTreeMap/Internal/Impl/Query.lean (hunk 2 above)
Comment (datokrat) [reply src/Std/Data/DTreeMap/Internal/Impl/Query.lean:147]: Yes, I haven't implemented all user-facing operations yet, only the ones that would have been needed for the `RBMap` replacement. Perhaps I should delete the non-public operations here for now.

File: src/Std/Data/DTreeMap/Internal/Impl/Query.lean (hunk 3 above)
Comment (datokrat) [reply src/Std/Data/DTreeMap/Internal/Impl/Query.lean:204]: I haven't touched these operations yet and they don't have a user-facing pendant yet. Will delete them for now.

File: src/Std/Data/DTreeMap/Basic.lean (hunk 10 above)
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DTreeMap/Basic.lean]: It seems that I forgot the `keys(Array)` operations of `TreeMap` and will add them there, too.

File: src/Std/Data/DTreeMap/Internal/Impl/Balancing.lean [hunk 14]
```diff
@@ -0,0 +1,852 @@
...
+Authors: Markus Himmel
+-/
+prelude
+import Init.Data.AC
+import Std.Data.DTreeMap.Internal.Impl.Query
+
+/-!
+# Low-level implementation of the size-bounded tree
+
+This file contains the basic definition implementing the functionality of the size-bounded trees.
```
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DTreeMap/Internal/Impl/Balancing.lean]: Updated it and added more explanations to it.

File: src/Std/Data/OrderAxioms/TransOrd.lean (hunk 7 above)
Comment (datokrat) [reply src/Std/Data/OrderAxioms/TransOrd.lean]: I decided to put all of the Cmp/Ord classes into one file called `Std/Classes/Ord.lean`. Perhaps we want to add some more classes in the future, hence the new directory.

File: src/Std/Data/OrderAxioms/TransOrd.lean
Comment (datokrat) [reply src/Std/Data/OrderAxioms/TransOrd.lean:1]: Done, see `Std/Classes/Ord.lean`.

File: src/Std/Data/DTreeMap/Internal/Impl/Query.lean (hunk 1 above)
Comment (datokrat) [reply src/Std/Data/DTreeMap/Internal/Impl/Query.lean]: I want to add `mem` lemmas for `Impl`, too, hence I will indeed need this as soon as I write lemmas. We didn't have `mem` lemmas for `Raw0` of the hash map but I find it nice and consistent to handle `mem` just like every other operation and prove their lemmas for `Impl`.

File: src/Std/Data/DTreeMap/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,306 @@
...
+structure DTreeMap (α : Type u) (β : α → Type v) (cmp : α → α → Ordering) where
+  /-- Internal implementation detail of the tree map. -/
+  inner : DTreeMap.Internal.Impl α β
+  /-- Internal implementation detail of the tree map. -/
+  wf : letI : Ord α := ⟨cmp⟩; inner.WF
+
+namespace DTreeMap
+open Internal (Impl)
+
+@[inline, inherit_doc Raw.empty]
```
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DTreeMap/Basic.lean]: Moved the docstrings to `Basic` as discussed.

File: src/Std/Data/DTreeMap/Basic.lean (hunk 11 above)
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DTreeMap/Basic.lean]: Renamed to `mergeWith`. A deprecated `mergeBy` will be introduced in a separate PR.

File: src/Std/Data/DTreeMap/Internal/Impl/Operations.lean (hunk 13 above)
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DTreeMap/Internal/Impl/Operations.lean]: I decided to remove `{of,from}{List}{Array}` and will reintroduce them later.

File: src/Std/Data/DTreeMap/Internal/Impl.lean
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DTreeMap/Internal/Impl.lean:1]: I've tried to restructure the internal files. Essentially, I flattened `Internal.Impl` and moved the definition of `WF` from `Internal.Impl` to `Internal.WF.Def`, while `Internal.WF`, containing the `toListModel_*` and `ordered_*` lemmas, became `Internal.WF.Lemmas`.

The situation for the hash map is not fully comparable: There, the `WF` predicate is not internal as it is for the tree map and `WF.lean` contains lemmas about `WFImp` instead of `WF`.

File: src/Std/Data/DTreeMap/Internal/WF.lean [hunk 16]
```diff
@@ -0,0 +1,1069 @@
...
+
+theorem toListModel_find?_of_eq [Ord α] [TransOrd α] {k : α → Ordering} [IsStrictCut compare k] {sz k' v' l r}
+    (hcmp : k k' = .eq) (ho : (inner sz k' v' l r).Ordered) :
+    (inner sz k' v' l r : Impl α β).toListModel.find? (k ·.1 == .eq) = some ⟨k', v'⟩ := by
+  rw [toListModel_inner, List.find?_append, List.find?_eq_none.2, Option.none_or,
+    List.find?_cons_of_pos]
+  · simp_all
+  · exact Ordered.compare_left_not_beq_eq ho (Ordering.isGE_of_eq_eq hcmp)
+
+theorem Option.or_eq_left {o o' : Option α} (h : o' = none) : o.or o' = o := by
```
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DTreeMap/Internal/WF.lean]: Moved it and added `or_eq_right`, too. However... It just occurred to me that `or_eq_left` can also have the hypothesis `o.isSome`. I will rename the lemma to `or_eq_left_of_none` so that there is space for `or_eq_left_of_some`.

File: src/Std/Data/DTreeMap/Basic.lean [hunk 17]
```diff
@@ -0,0 +1,306 @@
...
+To avoid expensive copies, users should make sure that the tree map is used linearly.
+
+Internally, the tree maps are represented as size-bounded trees.
+
+These tree maps contain a bundled well-formedness invariant, which means that they cannot
+be used in nested inductive types. For these use cases, `Std.DTreeMap.Raw` and
+`Std.DTreeMap.Raw.WF` unbundle the invariant from the tree map. When in doubt, prefer
+`DTreeMap` over `DTreeMap.Raw`.
+-/
+structure DTreeMap (α : Type u) (β : α → Type v) (cmp : α → α → Ordering) where
```
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DTreeMap/Basic.lean]: It works wonderfully.

File: src/Std/Data/DTreeMap/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,355 @@
...
+  inner : DTreeMap.Internal.Impl α β
+  /-- Internal implementation detail of the tree map. -/
+  wf : letI : Ord α := ⟨cmp⟩; inner.WF
+
+namespace DTreeMap
+open Internal (Impl)
+
+/--
+Creates a new empty tree map. It is also possible to
+use the empty collection notations `∅` and `{}` to create an empty tree map.
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Basic.lean:73]: I think here we have a difference between hash maps and tree maps. In the hash map case, there is a legitimate reason to use `empty`, namely to initialize a hash map with a given initial capacity. For the tree map, there is no such thing, so I think we should recommend to always use `∅`, have a simp lemma that rewrites `empty` to `∅` and state all lemmas only for `∅`.

File: src/Std/Data/DTreeMap/Basic.lean [hunk 19]
```diff
@@ -0,0 +1,355 @@
...
+def insertIfNew (t : DTreeMap α β cmp) (a : α) (b : β a) : DTreeMap α β cmp :=
+  letI : Ord α := ⟨cmp⟩; ⟨(t.inner.insertIfNew a b t.wf.balanced).impl, t.wf.insertIfNew⟩
+
+/--
+Checks whether a key is present in a map and inserts a value for the key if it was not found.
+
+If the returned `Bool` is `true`, then the returned map is unaltered. If the `Bool` is `false`, then
+the returned map has a new value inserted.
+
+Equivalent to (but potentially faster than) calling `contains` followed by `insertIfNew`.
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Basic.lean:116]: I hope this docstring is false!

File: src/Std/Data/DTreeMap/Basic.lean [hunk 20]
```diff
@@ -0,0 +1,355 @@
...
+
+/--
+Tries to retrieve the mapping for the given key, returning `none` if no such mapping is present.
+-/
+@[inline]
+def get? (t : DTreeMap α β cmp) (a : α) : Option β :=
+  letI : Ord α := ⟨cmp⟩; Impl.Const.get? a t.inner
+
+/--
+Given a proof that a mapping for the given key is present, returns the value associated .
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Basic.lean:221]: There seems to be something missing here.

File: src/Std/Data/DTreeMap/Basic.lean [hunk 21]
```diff
@@ -0,0 +1,355 @@
...
+/--
+Tries to retrieve the mapping for the given key, returning `fallback` if no such mapping is present.
+-/
+@[inline]
+def getD (t : DTreeMap α β cmp) (a : α) (fallback : β) : β :=
+  letI : Ord α := ⟨cmp⟩; Impl.Const.getD a t.inner fallback
+
+end Const
+
+universe w w₂
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Basic.lean:243]: We usually declare all universe variables at the top of the file.

File: src/Std/Data/DTreeMap/Basic.lean [hunk 22]
```diff
@@ -0,0 +1,355 @@
...
+  for ⟨a, b⟩ in t do
+    if p a b = false then return false
+  return true
+
+/-- Returns a list of all keys present in the tree map in some order. -/
+@[inline]
+def keys (t : DTreeMap α β cmp) : List α :=
+  t.inner.keys
+
+/-- Returns an array of all keys present in the tree map in some order. -/
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Basic.lean:300]: I think here we can also promise that we return the keys in ascending order.

File: src/Std/Data/DTreeMap/Basic.lean [hunk 23]
```diff
@@ -0,0 +1,355 @@
...
+
+/-- Transforms the tree map into a list of mappings in ascending order. -/
+@[inline]
+def toArray (t : DTreeMap α β cmp) : Array ((a : α) × β a) :=
+  t.inner.toArray
+
+/--
+Returns a map that contains all mappings of `t₁` and `t₂`. In case that both maps contain the
+same key `k` with respect to `cmp`, the provided function is used to determine the new value from
+the respective values in `t₁` and `t₂`.
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Basic.lean:318]: Now that you put so much work into this function, perhaps add a sentence about linearity, similarly as it exists for `alter`/`modify` on the hash map?

File: src/Std/Data/DTreeMap/Basic.lean [hunk 24]
```diff
@@ -0,0 +1,355 @@
...
+
+@[inline, inherit_doc DTreeMap.mergeWith]
+def mergeWith (mergeFn : α → β → β → β) (t₁ t₂ : DTreeMap α β cmp) : DTreeMap α β cmp :=
+  letI : Ord α := ⟨cmp⟩;
+  ⟨Impl.Const.mergeWith mergeFn t₁.inner t₂.inner t₁.wf.balanced |>.impl, t₁.wf.constMergeBy⟩
+
+end Const
+
+/--
+Erases multiple mappings from the tree map by iterating over the given collection and calling erase.
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Basic.lean:344]:
```suggestion
Erases multiple mappings from the tree map by iterating over the given collection and calling `erase`.
```

File: src/Std/Data/DTreeMap/Internal/Def.lean [hunk 25]
```diff
@@ -0,0 +1,39 @@
...
+
+namespace Std.DTreeMap.Internal
+
+/-- (Implementation detail) The actual inductive type for the size-balanced tree data structure. -/
+inductive Impl (α : Type u) (β : α → Type v) where
+  /-- (Implementation detail) -/
+  | inner (size : Nat) (k : α) (v : β k) (l r : Impl α β)
+  /-- (Implementation detail) -/
+  | leaf
+  deriving Inhabited
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Def.lean:30]:
```suggestion
deriving Inhabited
```
(style guide)

File: src/Std/Data/DTreeMap/Internal/Def.lean [hunk 26]
```diff
@@ -0,0 +1,39 @@
...
+
+This file contains the basic definition implementing the functionality of the size-bounded trees.
+-/
+
+set_option autoImplicit false
+set_option linter.all true
+
+universe u v w
+
+variable {α : Type u} {β : α → Type v} {γ : α → Type w} {δ : Type w} {m : Type w → Type w}
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Def.lean:20]: Looks like most of this is not needed in this file?

File: src/Std/Data/DTreeMap/Internal/Model.lean [hunk 27]
```diff
@@ -0,0 +1,485 @@
...
+    · simp only [List.append_assoc, List.nil_append]
+      simp only [ih₂, ← List.append_assoc l₃]
+      simp
+  · simp [applyPartition.go]
+
+theorem explore_eq_applyPartition [Ord α] {k : α → Ordering} (init : δ) (l : Impl α β)
+    (f : δ → ExplorationStep α β k → δ)
+    (hfr : ∀ {k hk v ll c rr r init}, f (f init (.lt k hk v r)) (.eq ll c rr) = f init (.eq ll c (rr ++ ⟨k, v⟩ :: r)))
+    (hfl : ∀ {k hk v ll c rr l init}, f (f init (.gt l k hk v)) (.eq ll c rr) = f init (.eq (l ++ ⟨k, v⟩ :: ll) c rr))
+    :
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Model.lean:145]:
```suggestion
    (hfl : ∀ {k hk v ll c rr l init}, f (f init (.gt l k hk v)) (.eq ll c rr) = f init (.eq (l ++ ⟨k, v⟩ :: ll) c rr)) :
```
(style guide)

File: src/Std/Data/DTreeMap/Internal/Model.lean [hunk 28]
```diff
@@ -0,0 +1,485 @@
...
+def updateCell [Ord α] (k : α) (f : Cell α β (compare k) → Cell α β (compare k))
+    (l : Impl α β) (hl : Balanced l) : SizedBalancedTree α β (l.size - 1) (l.size + 1) :=
+  match l with
+  | leaf => match (f .empty).inner with
+            | none => ⟨.leaf, by tree_tac, by tree_tac, by tree_tac⟩
+            | some ⟨k', v'⟩ => ⟨.inner 1 k' v' .leaf .leaf, by tree_tac, by tree_tac, by tree_tac⟩
+  | inner sz ky y l r =>
+    match h : compare k ky with
+    | .lt =>
+        let ⟨newL, h₁, h₂, h₃⟩ := updateCell k f l (by tree_tac)
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Model.lean:185]: Some more reindenting required here.

File: src/Std/Data/DTreeMap/Internal/Operations.lean [hunk 29]
```diff
@@ -0,0 +1,729 @@
...
+/-- A tree map obtained by erasing elements from `t`, bundled with an inductive principle. -/
+abbrev IteratedErasureFrom [Ord α] (t) :=
+  { t' // ∀ {P : Impl α β → Prop}, P t → (∀ t'' a h, P t'' → P (t''.erase a h).impl) → P t' }
+
+/-- Iterate over `l` and erase all of its elements from `t`. -/
+@[inline]
+def eraseMany [Ord α] {ρ : Type w} [ForIn Id ρ α] (t : Impl α β) (l : ρ) (h : t.Balanced) :
+    IteratedErasureFrom t :=
+  Id.run do
+    let mut r := ⟨t, fun h _ => h⟩
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Operations.lean:438]:
```suggestion
    IteratedErasureFrom t := Id.run do
  let mut r := ⟨t, fun h _ => h⟩
```
(style guide)

File: src/Std/Data/DTreeMap/Internal/Operations.lean [hunk 30]
```diff
@@ -0,0 +1,729 @@
...
+-/
+@[specialize]
+def filterMap [Ord α] (f : (a : α) → β a → Option (γ a)) (t : Impl α β) (hl : t.Balanced) :
+    BalancedTree α γ :=
+  match t with
+  | .leaf => ⟨.leaf, ✓⟩
+  | .inner sz k v l r =>
+    match f k v with
+    | none =>
+        let ⟨l', hl'⟩ := filterMap f l ✓
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Operations.lean:486]:
```suggestion
      let ⟨l', hl'⟩ := filterMap f l ✓
```
(style buide)

File: src/Std/Data/DTreeMap/Raw.lean [hunk 31]
```diff
@@ -0,0 +1,278 @@
...
+like `WF.empty` and `WF.insert` (which are always named exactly like the operations they are about)
+to show that map operations preserve well-formedness. The constructors of this type are internal
+implementation details and should not be accessed by users.
+-/
+structure WF (t : Raw α β cmp) where
+  /-- Internal implementation detail of the tree map. -/
+  out : letI : Ord α := ⟨cmp⟩; t.inner.WF
+
+instance {t : Raw α β cmp} : Coe t.WF (letI : Ord α := ⟨cmp⟩; t.inner.WF) where
+  coe h := h.out
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Raw.lean:83]: I'm not sure I understand where exactly in this file this is used.

File: src/Std/Data/TreeMap/AdditionalOperations.lean [hunk 32]
```diff
@@ -0,0 +1,48 @@
...
+We currently do not provide lemmas for these functions.
+-/
+
+set_option autoImplicit false
+set_option linter.missingDocs true
+
+universe u v w w₂
+
+variable {α : Type u} {β : Type v} {γ : Type w} {cmp : α → α → Ordering} {m : Type w → Type w₂}
+  [Monad m]
```
Comment (TwoFX) [inline src/Std/Data/TreeMap/AdditionalOperations.lean:24]: Again, most of this looks unused.

File: src/Init/Data/Option/List.lean [hunk 33]
```diff
@@ -59,4 +59,11 @@ namespace Option
     o.toList.foldr f a = o.elim a (fun b => f b a) := by
   cases o <;> simp
 
+theorem pairwise_toList {P : α → α → Prop} {o : Option α} : o.toList.Pairwise P := by
+  cases o <;> simp
+
+@[simp]
+theorem head?_toList {o : Option α} : o.toList.head? = o := by
```
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Init/Data/Option/List.lean:66]: I find this coe equally unsettling, but here `o`  is itself an `Option α`, so there is no coercion happening, right?

File: src/Std/Data/DTreeMap/AdditionalOperations.lean [hunk 34]
```diff
@@ -0,0 +1,53 @@
...
+
+variable {γ : α → Type w} in
+/-- Updates the values of the map by applying the given function to all mappings. -/
+@[inline]
+def map (f : (a : α) → β a → γ a) (t : Raw α β cmp) : Raw α γ cmp :=
+  letI : Ord α := ⟨cmp⟩; ⟨t.inner.map f⟩
+
+end Raw
+
+variable {γ : α → Type w} in
```
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DTreeMap/AdditionalOperations.lean:43]: It is not, I already removed it in `TreeMap.AdditionalOperations` and will remove this, too. This method was once in another file where the top-level `variable` declaration was missing.

File: src/Std/Data/DTreeMap/AdditionalOperations.lean [hunk 35]
```diff
@@ -0,0 +1,53 @@
...
+# Additional dependent tree map operations
+
+This file defines more operations on `Std.DTreeMap`.
+We currently do not provide lemmas for these functions.
+-/
+
+set_option autoImplicit false
+set_option linter.missingDocs true
+
+universe u v w w₂
```
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DTreeMap/AdditionalOperations.lean:20]: This, too, is a relic from functions that once were in this file.

File: src/Init/Data/Option/List.lean (hunk 33 above)
[the remark this answers is not in the document]
Comment (TwoFX) [reply src/Init/Data/Option/List.lean:66]: Oh, you're right. Sorry.

File: src/Std/Data/DTreeMap/Raw.lean (hunk 31 above)
Comment (datokrat) [reply src/Std/Data/DTreeMap/Raw.lean:83]: It will be used by the proofs for the lemmas, simplifying the proof terms a bit. I tend to keep it there although it is currently unused, but I can remove it until it is used if you wish.

Comment (TwoFX) [reply src/Std/Data/DTreeMap/Raw.lean:83]: You can keep it if you like.

File: src/Std/Data/DTreeMap/Basic.lean (hunk 18 above)
Comment (datokrat) [reply src/Std/Data/DTreeMap/Basic.lean]: I rewrote the docstring as follows:

```lean
/--
Creates a new empty tree map. It is also possible and recommended to
use the empty collection notations `∅` and `{}` to create an empty tree map. `simp` replaces
`empty` with `∅`.
-/
```

Although this can also be read as a recommendation of `{}`, I tested that `simp` treats both notations the same as expected, so I believe this is fine.

File: src/Std/Data/DTreeMap/Basic.lean (hunk 23 above)
Comment (datokrat) [reply src/Std/Data/DTreeMap/Basic.lean:318]: I added explanations of the sense in which this function is linear and of the performance characteristics.

File: src/Std/Classes/Ord.lean [hunk 36]
```diff
@@ -0,0 +1,249 @@
...
+theorem equivBEq_of_transOrd [Ord α] [TransOrd α] : EquivBEq α where
+  symm {a b} h := by simp_all [OrientedCmp.eq_comm]
+  trans h₁ h₂ := by simp_all only [beq_eq, beq_iff_eq]; exact TransCmp.eq_trans h₁ h₂
+  refl := by simp
+
+theorem lawfulBEq_of_lawfulEqOrd [Ord α] [LawfulEqOrd α] : LawfulBEq α where
+  eq_of_beq hbeq := by simp_all
+  rfl := by simp
+
+end BEqOfOrd
```
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Classes/Ord.lean]: Done, I enclosed the instances in an internal namespace.

**Review by TwoFX — APPROVED** [review]
